US06800659B2
(E,E)-2- Aminocarbonyl-3-(3,5-dimethoxy-4-hydroxystyryl)acrylonitrile (CR13)
The compound was prepared as described in Example 3 by adding 3,5-dimethoxy-4-hydroxycinnamaldehyde (0.1 g, 0.48 mmol) to 2-cyanoacetamide (0.04 g, 0.48 mmol). After refluxing for 3 h and recrystallization from ethanol an orange solid was obtained (0.083 g, 63%). The product gave the following analytical data:

reactant | 3,5-dimethoxy-4-hydroxycinnamaldehyde | 0.48 mmol, 0.1 g | COC=1C=C(C=CC=O)C=C(C1O)OC | C11H12O4
reactant | 2-cyanoacetamide | 0.48 mmol, 0.04 g | C(#N)CC(=O)N | C3H4N2O
product | (E,E)-2- Aminocarbonyl-3-(3,5-dimethoxy-4-hydroxystyryl)acrylonitrile | NC(=O)\C(\C#N)=C\C=C\C1=CC(=C(C(=C1)OC)O)OC | C14H14N2O4
